US08791142B2
Step 4) tert-butyl 2-(methyl((4-(5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)amino)acetate
A solution of 3-(2-(chloromethyl)pyridin-4-yl)-5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazole (0.065 g; 0.15 mmol), sarcosine t-butyl ester hydrochloride (0.031 g; 0.17 mmol) and K2CO3 (0.046 g; 0.34 mmol) in dioxan (2 mL) was heated at 70° C. for 96 hours. DCM and water were added to the reaction mixture. The mixture was poured through a hydrophobic frit. The solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica, eluting with DCM/MeOH (100% DCM to 10% MeOH/DCM) to afford the title product. 1H NMR (CDCl3, 400 MHz) δ 8.75 (1H, dd, J=5.1, 0.9 Hz), 8.51 (1 H, d, J=2.1 Hz), 8.34 (1 H, dd, J=8.4, 2.1 Hz), 8.21 (1 H, s), 7.91 (1 H, dd, J=5.1, 1.7 Hz), 7.55 (1 H, d, J=8.4 Hz), 3.98 (2 H, s), 3.34 (2 H, s), 3.12-3.01 (2 H, m), 2.59 (1 H, td, J=11.0, 3.0 Hz), 2.48 (3 H, s), 1.87-1.40 (6 H, m), 1.51 (9 H, s), 0.86 (3 H, d, J=6.2 Hz).

reactant | 3-(2-(chloromethyl)pyridin-4-yl)-5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazole | 0.15 mmol, 0.065 g | ClCC1=NC=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)C(F)(F)F | C21H20ClF3N4O
reactant | sarcosine t-butyl ester hydrochloride | 0.17 mmol, 0.031 g | Cl.C(C)(C)(C)OC(CNC)=O
reactant | K2CO3 | 0.34 mmol, 0.046 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | dioxan | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | tert-butyl 2-(methyl((4-(5-(4-(2-methylpiperidin-1-yl)-3-(trifluoromethyl)phenyl)-1,2,4-oxadiazol-3-yl)pyridin-2-yl)methyl)amino)acetate | CN(CC(=O)OC(C)(C)C)CC1=NC=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)N1C(CCCC1)C)C(F)(F)F | C28H34F3N5O3
